US04382929
5-(Hydroxymethyl)-N,N-dimethyl-3-thiophenecarboxamide
A mixture of methyl 5-(hydroxymethyl)-3-thiophenecarboxylate (3 g), sodium methoxide (0.2 g) and excess anhydrous dimethylamine in dry methanol (20 ml) was stirred for 24 h at ambient temperature. The solvent was removed in vacuo, water was added and the product was extracted with ethyl acetate. The organic extract was evaporated to leave an oily residue which was chromatographed on silica with ethyl acetate-light petroleum 40°-60°; (1:1) to give the title compound (1.3 g). I.R. (CHBr3) OH 3,595 cm-1 ; C=O 1,620 cm-1

reactant | methyl 5-(hydroxymethyl)-3-thiophenecarboxylate | 3 g | OCC1=CC(=CS1)C(=O)OC | C7H8O3S
reactant | sodium methoxide | 0.2 g | C[O-].[Na+]
reactant | dimethylamine | CNC | C2H7N
solvent | methanol | 20 ml | CO | CH4O
product | 5-(Hydroxymethyl)-N,N-dimethyl-3-thiophenecarboxamide | 1.3 g | OCC1=CC(=CS1)C(=O)N(C)C | C8H11NO2S
